US06015825
2-(1-Bromoethyl)-5-bromopyridine
A solution of 2-ethyl-5-bromopyridine (1.86 g, 10 mmol), N-bromosuccinimide (1.78 g, 10 mmol) in 1,2-dichloroethane (20 ml) was brought to reflux before the addition of azoisobutyronitrile (AIBN) (20 mg). The solution was then refluxed for a further two hours. The cooled suspension was filtered and evaporated in vacuo. Purification by column chromatography (silica gel, eluting with 1:1 dichloromethane/hexane) gave the desired product as a pale yellow oil (2.12 g, 80%).

reactant | 2-ethyl-5-bromopyridine | 10 mmol, 1.86 g | C(C)C1=NC=C(C=C1)Br | C7H8BrN
reactant | N-bromosuccinimide | 10 mmol, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-(1-Bromoethyl)-5-bromopyridine | 2.12 g, 80% | BrC(C)C1=NC=C(C=C1)Br | C7H7Br2N
